US03971828
4.9g (0.065 mol) of glycine was dissolved in 250 ml of 0.5 N--NaOH and then to the solution was added dropwise 14.6g (0.054 mol) of 2-bromo-p-chlorophenylacetyl chloride over 1 hour while stirring and cooling with a freezing mixture. After completion of the addition, the reaction mixture was stirred at room temperature for an additional 2 hours. During stirring, the pH of the mixture was adjusted to 8. The filtrate which had been prepared by dissolving 11.6g (0.08 mol) of thiobenzoic acid in 40 ml of 2N--KOH and filtering the solution to remove undissolved substances was added to the reaction mixture followed by stirring at room temperature overnight. The next morning, the mixture was acidified with hydrochloric acid while ice-cooling to precipitate crystals. These crystals were recovered by filtration, washing with water and washing with benzene to give 15.1g of crude N-(2-benzoylmercapto-p-chlorophenylacetyl)glycine. The product had a melting point of 158° - 159°C after recrystallization from ethyl acetate-benzene. 11.0g (0.03 mol) of N-(2-benzoylmercapto-p-chlorophenylacetyl)glycine was dissolved in 75 ml of concentrated aqueous ammonia followed by stirring at room temperature for 1 hour. After removal of benzamide by extraction with ethyl acetate, the resulting aqueous layer was treated in a similar manner in accordance with Example I to give 6.0g of N-(2-mercapto-p-chlorophenylacetyl)glycine, ClC6H4CH(SH)--CONHCH2COOH. (m.p. 148° - 149°C, Purity; 100 % (iodometry))

reactant | N-(2-benzoylmercapto-p-chlorophenylacetyl)glycine | 0.03 mol, 11.0g | C(C1=CC=CC=C1)(=O)SC1=C(C=CC(=C1)Cl)CC(=O)NCC(=O)O | C17H14ClNO4S
solvent | ammonia | 75 ml | N | H3N
product | N-(2-mercapto-p-chlorophenylacetyl)glycine | 6.0g | SC1=C(C=CC(=C1)Cl)CC(=O)NCC(=O)O | C10H10ClNO3S
